US06218394B1
1-(6-Acetylaminoindan-1-ylmethyl)-4-acetyloxy-4-(3-trifluoromethyl-4-chlorophenyl)piperidine, 18a.
To a solution of 1-(6-aminoindan-1-ylmethyl)-4-hydroxy-4-(3-trifluoromethyl-4-chlorophenyl)piperidine, 2j, (6.7 g) and triethylamine (4 mL) in dichloromethane (100 mL) was added dropwise at 0-5° C. a solution of chloroacetylchloride (2.6 mL) in dichloromethane (50 mL). The mixture was stirred overnight at room temperature. Water was added and pH was adjusted to >9. The organic phase was separated and worked up as previously. The crude product was purified by column chromatography on silica gel (eluted with 4% triethylamine in ethyl acetate). Yield of pure 18a 6.2 g as an oil.

reactant | 1-(6-aminoindan-1-ylmethyl)-4-hydroxy-4-(3-trifluoromethyl-4-chlorophenyl)piperidine | NC1=CC=C2CCC(C2=C1)CN1CCC(CC1)(C1=CC(=C(C=C1)Cl)C(F)(F)F)O | C22H24ClF3N2O
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetylchloride | 2.6 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | Water | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(6-Acetylaminoindan-1-ylmethyl)-4-acetyloxy-4-(3-trifluoromethyl-4-chlorophenyl)piperidine | C(C)(=O)NC1=CC=C2CCC(C2=C1)CN1CCC(CC1)(C1=CC(=C(C=C1)Cl)C(F)(F)F)OC(C)=O | C26H28ClF3N2O3
